US06156700
Preparation of 3-[3-(Fluoromethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A solution of 3-[3-(bromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (1.00 g, 0.00240 mol), 14.4 mL of a 1 M tetrabutylammonium fluoride in tetrahydrofuran solution (0.0144 mol) and anhydrous p-toluenesulfonic acid (1.36 g, 0.00790 mol) in tetrahydrofuran is stirred at room temperature for 30 minutes, refluxed for three hours, stirred at room temperature for three days, refluxed for 22 hours, partially concentrated in vacuo, and diluted with ethyl acetate. The resultant mixture is washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain an orange solid. Column chromatography of the solid using silica gel and a 2.5% diethyl ether in methylene chloride solution gives the title product as a white solid (0.42 g, mp 201-202° C.).

reactant | 3-[3-(bromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.00240 mol, 1.00 g | BrCC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C14H9BrF3N3O2S
reactant | tetrabutylammonium fluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | p-toluenesulfonic acid | 0.00790 mol, 1.36 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 0.0144 mol | O1CCCC1 | C4H8O
product | 3-[3-(Fluoromethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.42 g | FCC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C14H9F4N3O2S
